US08252820B2
Chlorosulfonylisocyanate (379 μL, 616 mg, 4.36 mmol) is dissolved in dichloromethane (5 mL) cooled in an ice bath. To this is added a solution of tert.-butanol (416 μL, 322 mg, 4.35 mmol) in dichloromethane (2 mL) dropwise then the mixture is stirred cold for 5 min then 15 min at RT. To the rechilled solution is added dropwise a solution of methyl 2-(2-benzyloxy-6-fluoroanilino)-acetate (840 mg, 2.90 mmol) and Hunig's base (859 μL, 637 mg, 4.93 mmol) in dichloromethane and the resulting solution allowed to warm to RT. After 4 h LC/MS showed the reaction to be complete. The solution is extracted with water, and the organic layer dried, filtered, and solvent removed under reduced pressure. The residual material is chromatographed on an Isco Companion (80 g silica gel, 20-50% gradient of hexane/ethyl acetate) to afford N-(t-butoxycarbonylsulfamoyl)-N-(2-benzyloxy-6-fluorophenyl)glycine methyl ester as an oil. MS (M−1)−=467; NMR (CDCl3): δ 7.51 (br s, 1H), 7.40 (m, 5H), 7.24 (m, 2H), 6.78 (m, 2H), 5.16 (s, 2H), 4.60 (dd, J=101 and 18 Hz, 2H), 3.64 (s, 3H), 1.46 (s, 9H).

reactant | Chlorosulfonylisocyanate | 4.36 mmol, 379 μL, 616 mg | ClS(=O)(=O)N=C=O | CClNO3S
reactant | tert.-butanol | 4.35 mmol, 416 μL, 322 mg | C(C)(C)(C)O | C4H10O
reactant | methyl 2-(2-benzyloxy-6-fluoroanilino)-acetate | 2.90 mmol, 840 mg | C(C1=CC=CC=C1)OC1=C(NCC(=O)OC)C(=CC=C1)F | C16H16FNO3
reactant | Hunig's base | 4.93 mmol, 859 μL, 637 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-(t-butoxycarbonylsulfamoyl)-N-(2-benzyloxy-6-fluorophenyl)glycine methyl ester | COC(CN(C1=C(C=CC=C1F)OCC1=CC=CC=C1)S(NC(=O)OC(C)(C)C)(=O)=O)=O | C21H25FN2O7S
